US07446118B2
3-(1H-Indazol-7-yl)-3-phenyl-acrylic acid ethyl ester CCXLVII was prepared from 7-bromo-1H-indazole using the procedure described for preparation of 3-(7-Methoxy-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester LIII (Example 13).

reactant | 7-bromo-1H-indazole | BrC=1C=CC=C2C=NNC12 | C7H5BrN2
reactant | 3-(7-Methoxy-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester | C(C)OC(C=C(C1=CC=CC=C1)C1=C2C=CNC2=C(C=C1)OC)=O | C20H19NO3
product | 3-(1H-Indazol-7-yl)-3-phenyl-acrylic acid ethyl ester | C(C)OC(C=C(C1=CC=CC=C1)C=1C=CC=C2C=NNC12)=O | C18H16N2O2
